US09376441B2
Prepared by Suzuki coupling reaction procedure, as previously described for the synthesis of (R)-4-((R)-1-((1-cyclopropyl-5-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:, using instead 6-bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine as a starting material to afford 27.9 mg (18%) of (R)-4-((R)-1-((1-cyclopropyl-5-(3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one:. 1H NMR (300 MHz, d6-DMSO) δ 8.06 (s, 1H), 7.59 (s, 1H), 7.24 (m, 1H), 6.78 (m, 4H), 5.80 (s, 1H), 4.79 (m, 1H), 4.13 (m, 2H), 3.69 (m, 1H), 3.39 (m, 1H), 3.31 (m, 1H), 3.25 (m, 2H), 2.82 (m, 1H), 2.32 (m, 2H), 1.37 (d, J=6.4 Hz, 3H), 1.11 (m, 4H). MS (ESI+) m/z 419.2 (M+H)

reactant | (R)-4-((R)-1-((1-cyclopropyl-5-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=CC(=C2)C=2C=CC=1OCCNC1N2)O[C@H](C)[C@@H]2CC(NC2)=O | C23H25N5O3
reactant | 6-bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine | BrC1=CC2=C(OCCN2)C=C1 | C8H8BrNO
product | (R)-4-((R)-1-((1-cyclopropyl-5-(3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-1H-benzo[d]imidazol-7-yl)oxy)ethyl)pyrrolidin-2-one | 27.9 mg, 18% | C1(CC1)N1C=NC2=C1C(=CC(=C2)C2=CC1=C(OCCN1)C=C2)O[C@H](C)[C@@H]2CC(NC2)=O | C24H26N4O3
